US07652021B2
b.) (2S)-4,4-difluoro-1-(N-{3-[(3-nitrobenzyl)amino]-1-adamantyl}glycyl)pyrrolidine-2-carbonitrile trihydrochloride
90 mg (0.3 mmole) of N-(3-nitrobenzyl)adamantane-1,3-diamine and 50 mg (0.24 mmole) of (2S)-1-(chloroacetyl)-4,4-difluoropyrrolidine-2-carbonitrile are dissolved in acetonitrile, to the solution 300 mg (0.75 mmole) of polimer bound 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine (PBEMP) are added. The mixture is sirred at 70° C. for 4 hours, then at room temperature for 20 hours. The scavanger resin is fitered off and the filtrate is evapotared, the residue is purified by column chromatography (chloroform-methanol 6:1). After acidification of the formed oil with ethereal hydrochloride acide the title compound is obtained: 41 mg (29%), m.p.: 226-229° C. 1H-NMR (DMSO-d6): 1.57 (s, 2H), 1.95 (d, 8H), 2.45 (d, 4H), 2.91 (m, 2H), 4.14 (m, 2H), 4.33 (m, 4H), 5.21 (m, 1H), 7.74 (t, 1H), 8.15 (t, 1H), 8.27 (dd, 1H), 8.58 (s, 1H), 9.41 (b, 2H), 9.77 (b, 2H).

reactant | N-(3-nitrobenzyl)adamantane-1,3-diamine | 0.3 mmole, 90 mg | [N+](=O)([O-])C=1C=C(CNC23CC4(CC(CC(C2)C4)C3)N)C=CC1 | C17H23N3O2
reactant | (2S)-1-(chloroacetyl)-4,4-difluoropyrrolidine-2-carbonitrile | 0.24 mmole, 50 mg | ClCC(=O)N1[C@@H](CC(C1)(F)F)C#N | C7H7ClF2N2O
reactant | 2-tert-butylimino-2-diethylamino-1,3-dimethyl-perhydro-1,3,2-diazaphosphorine | C(C)(C)(C)N=P1(N(CCCN1C)C)N(CC)CC | C13H31N4P
solvent | acetonitrile | C(C)#N | C2H3N
product | (2S)-4,4-difluoro-1-(N-{3-[(3-nitrobenzyl)amino]-1-adamantyl}glycyl)pyrrolidine-2-carbonitrile trihydrochloride | Cl.Cl.Cl.FC1(C[C@H](N(C1)C(CNC12CC3(CC(CC(C1)C3)C2)NCC2=CC(=CC=C2)[N+](=O)[O-])=O)C#N)F | InChI=1S/C24H29F2N5O3.3ClH/c25-24(26)10-20(11-27)30(15-24)21(32)13-29-23-8-17-4-18(9-23)7-22(6-17,14-23)28-12-16-2-1-3-19(5-16)31(33)34;;;/h1-3,5,17-18,20,28-29H,4,6-10,12-15H2;3*1H/t17?,18?,20-,22?,23?;;;/m0.../s1
